US04544654
N-[2-(Ethylamino)ethyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride
To a solution of 4.45 g (50.5 mmoles) of N-ethylethylenediamine in 50 ml of tetrahydrofuran cooled in an ice/ethanol bath under a nitrogen atmosphere add dropwise a solution of 11.8 g (50.5 mmoles) of 4-[(methylsulfonyl)amino]benzoyl chloride in 100 ml of tetrahydrofuran. When the addition is complete, allow the mixture to warm to room temperature and stir overnight. Filter the resulting solid and wash the solid with tetrahydrofuran then with diethyl ether. Triturate the solid in acetone, then recrystallize from 90% aqueous methanol to obtain the title compound.

reactant | N-ethylethylenediamine | 50.5 mmoles, 4.45 g | C(C)NCCN | C4H12N2
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | 50.5 mmoles, 11.8 g | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-[2-(Ethylamino)ethyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride | Cl.C(C)NCCNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | InChI=1S/C12H19N3O3S.ClH/c1-3-13-8-9-14-12(16)10-4-6-11(7-5-10)15-19(2,17)18;/h4-7,13,15H,3,8-9H2,1-2H3,(H,14,16);1H
